US05098930
3,5-Dihydroxyphenyl iodide (Tex. J. Sci., 1977, 28, 253) was reacted with two equivalents of benzyl bromide using the procedure described in Example 3 to give 3,5-dibenzyloxyphenyl iodide (96%), as an oil. This was reacted with n-butyl-lithium using the procedure described in the portion of Example 24 which is concerned with the preparation of starting materials and the organometallic reagent so formed was reacted with tetrahydropyran-4-one using the procedure described in that Example. There was thus obtained 4-(3,5-dibenzyloxyphenyl)-4-hydroxytetrahydropyran (60%), as an oil.

reactant | 3,5-Dihydroxyphenyl iodide | OC=1C=C(C=C(C1)O)I | C6H5IO2
reactant | benzyl bromide | two equivalents | C(C1=CC=CC=C1)Br | C7H7Br
product | 3,5-dibenzyloxyphenyl iodide | 96% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)I | C20H17IO2
